US06013764
A solution of HCl (28 g, 770 mmol) in ethyl acetate (100 g) at -10° C. was rapidly added to Boc-Lys(Z)-Leu-Leu-OMe (35.0 g, 55.74 mmol) under N2 at -15 to -12° C. The mixture was stirred and maintained at -15 to -12° C. for 60 to 70 min and allowed to crystallize for 1 h at -10 to -5° C. The solid was filtered while excluding moisture, washed with several portions of t-butyl methyl ether and dried in vacuo to give H-Lys(Z)-Leu-Leu-OMe·HCl (28.7 g, 91.4%).

reactant | HCl | 770 mmol, 28 g | Cl | ClH
reactant | Boc-Lys(Z)-Leu-Leu-OMe | 55.74 mmol, 35.0 g | N([C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)OC)C(=O)OC(C)(C)C | C32H52N4O8
solvent | ethyl acetate | 100 g | C(C)(=O)OCC | C4H8O2
product | H-Lys(Z)-Leu-Leu-OMe·HCl | 28.7 g, 91.4% | N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)OC.Cl | InChI=1S/C27H44N4O6.ClH/c1-18(2)15-22(25(33)31-23(16-19(3)4)26(34)36-5)30-24(32)21(28)13-9-10-14-29-27(35)37-17-20-11-7-6-8-12-20;/h6-8,11-12,18-19,21-23H,9-10,13-17,28H2,1-5H3,(H,29,35)(H,30,32)(H,31,33);1H/t21-,22-,23-;/m0./s1
